US05571843
2-[4-(4-propylphenyl)-semicarbazono]indan-1,3-dione
ninhydrin, 4-(4-propylphenyl)-semicarbazide hydrochloride

reactant | ninhydrin | C1=CC=C2C(=C1)C(=O)C(C2=O)(O)O | C9H6O4
reactant | 4-(4-propylphenyl)-semicarbazide hydrochloride | Cl.C(CC)C1=CC=C(C=C1)NC(NN)=O
product | 2-[4-(4-propylphenyl)-semicarbazono]indan-1,3-dione | C(CC)C1=CC=C(C=C1)NC(NN=C1C(C2=CC=CC=C2C1=O)=O)=O | C19H17N3O3
